US04400566
The procedure described in Example 13 was used except that the sodium iodide was omitted from the catalyst mixture, and the reaction time was 20 hours. Gas chromatograph analysis revealed that all of the chlorobenzene had been consumed to produce 77% benzene and 23% biphenyl.

reactant | sodium iodide | [I-].[Na+]
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | biphenyl | 23% | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
